US04866199
Synthesis of (R)-4-n-octoxybenzoic acid 4-(6'-chloro-4'-methyldecyloxy)phenyl ester
The procedure of Example 12 was followed except that the 4-n-hexyloxybenzoic acid and (R)-4-(6'-chloro-4'-methylhexyloxy)phenol were replaced by 4-n-octoxybenzoic acid and (R)-4-(6'-chloro-4'-methyldecyloxy)phenol ([α]D =+2.00°, C=1, CHCl3 solution, 26° C.) to thereby give the title compound.

reactant | 4-n-hexyloxybenzoic acid | C(CCCCC)OC1=CC=C(C(=O)O)C=C1 | C13H18O3
reactant | (R)-4-(6'-chloro-4'-methylhexyloxy)phenol | ClCC[C@@H](CCCOC1=CC=C(C=C1)O)C | C13H19ClO2
reactant | 4-n-octoxybenzoic acid | C(CCCCCCC)OC1=CC=C(C(=O)O)C=C1 | C15H22O3
reactant | (R)-4-(6'-chloro-4'-methyldecyloxy)phenol | ClC(C[C@@H](CCCOC1=CC=C(C=C1)O)C)CCCC | C17H27ClO2
product | (R)-4-n-octoxybenzoic acid 4-(6'-chloro-4'-methyldecyloxy)phenyl ester | ClC(C[C@@H](CCCOC1=CC=C(C=C1)OC(C1=CC=C(C=C1)OCCCCCCCC)=O)C)CCCC | C32H47ClO4
